US06090825
A solution of 1-Acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide (40.66 g, 141 mmol), prepared as in Intermediate 2A, in 2:1 EtOH: H2O (160 mL EtOH, 80 mL H2O) is treated with 37% aqueous formaldehyde (21.1 mL, 282 mmol) and NaCHO3 (1.18 g, 14.1 mmol). The reaction mixture is stirred at 23° C. for 6 h, and the resulting precipitate is removed by filtration. The filtrate is cooled to 0° C. and diluted with H2O (100 mL), and a second crop of 1-Acetyl-piperidine-4-carboxylic acid (1-hydroxymethyl-2-oxo-2-phenyl-ethyl)-amide is obtained by filtration.

reactant | 1-Acetyl-piperidine-4-carboxylic acid (2-oxo-2-phenyl-ethyl)-amide | 141 mmol, 40.66 g | O=C(CNC(=O)C1CCN(CC1)C(C)=O)C1=CC=CC=C1 | C16H20N2O3
reactant | EtOH | CCO | C2H6O
reactant | formaldehyde | 282 mmol, 21.1 mL | C=O | CH2O
solvent | H2O | 160 mL | O | H2O
product | 1-Acetyl-piperidine-4-carboxylic acid (1-hydroxymethyl-2-oxo-2-phenyl-ethyl)-amide | OCC(C(C1=CC=CC=C1)=O)NC(=O)C1CCN(CC1)C(C)=O | C17H22N2O4
